US07420079B2
A dry vessel was charged with 7.5 kg adamantyl bromide. Methylene chloride (22.5 liters) was then added at room temperature to dissolve the solid adamantane bromide. Dissolving is endothermic so before the next step, the temperature of the reaction mixture was allowed to return to 20° C. The reaction mixture was then charged with zinc chloride (1.05 kg) and stirred for approximately 5 minutes at 20° C. The reaction mixture was then charged with tris(trimethylsiloxy)-ethylene (15.3 kg) while maintaining the reaction temperature between 20 to 25° C. and the resulting mixture was stirred for 2 hours. Following this mixing, tris(trimethylsiloxy)-ethylene (5.10 kg) was added. During this addition, the temperature was maintained below 30° C. The reaction was maintained for another 12 to 15 hours at 20 to 25° C., at which time the reaction mixture was diluted with methylene chloride (15 liters) and cooled to 0 to 5° C. The reaction mixture was then treated, beginning in dropwise fashion, with half-saturated NH4Cl solution. During addition, the temperature was kept below 30° C. A thick suspension was obtained. To this suspension was added ethyl acetate (93.75 liters). The mixture was stirred vigorously for 15 minutes and the organic and aqueous phases were split. The organic layer was stored and the aqueous layer was washed twice with ethyl acetate (18.75 liters in each wash). The ethyl acetate washes and organic layer were then combined and washed with water (37.5 liters) followed by water half saturated with brine (37.5 liters). The organic layer was separated again and evaporated to form crystals. A solvent exchange to heptane was then performed at a final volume of 22.5 liters. The resulting suspension was cooled to 5 to 10° C. for 1 hour and the product <a-hydroxytricyclo[3.3.1.13,7]decane-1-acetic acid (Formula B) was obtained via filtration. Yield of <a-hydroxytricyclo[3.3.1.13,7]decane-1-acetic acid (Formula B) was 6.96 kg (33.11 mol, 95%).

reactant | adamantyl bromide | 7.5 kg | C12(CC3CC(CC(C1)C3)C2)Br | C10H15Br
reactant | adamantane bromide | [Br-].C12CC3CC(CC(C1)C3)C2
reactant | tris(trimethylsiloxy)-ethylene | 15.3 kg | C[Si](OC=C(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C11H28O3Si3
reactant | tris(trimethylsiloxy)-ethylene | 5.10 kg | C[Si](OC=C(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C11H28O3Si3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methylene chloride | 15 liters | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 1.05 kg | [Cl-].[Zn+2].[Cl-]
solvent | Methylene chloride | 22.5 liters | C(Cl)Cl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | 93.75 liters | C(C)(=O)OCC | C4H8O2
product | a-hydroxytricyclo[3.3.1.13,7]decane-1-acetic acid | OC(C(=O)O)C12CC3CC(CC(C1)C3)C2 | C12H18O3
